US05574178
5-Acetoxy-4,6-di-tert-butyl-2-(1-octenyl)benzofuran (3.1 g) was dissolved in ethyl acetate containing 10% acetic acid (50 ml) and, after addition of 10% Pd on carbon (0.3 g), the solution was stirred under a hydrogen atmosphere for 3 h. After filtering off the Pd on carbon, the filtrate was concentrated under vacuum. The concentrate was purified by silica gel chromatography (10% ethyl acetate in n-hexane) to afford 5-acetoxy-4,6-di-tert-butyl-2-octylbenzofuran [2.95 g (yield, 96%)] as a colorless oil.

reactant | 5-Acetoxy-4,6-di-tert-butyl-2-(1-octenyl)benzofuran | 3.1 g | C(C)(=O)OC=1C(=CC2=C(C=C(O2)C=CCCCCCC)C1C(C)(C)C)C(C)(C)C | C26H38O3
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd on carbon | 0.3 g | [Pd] | Pd
product | 5-acetoxy-4,6-di-tert-butyl-2-octylbenzofuran | 2.95 g, 96% | C(C)(=O)OC=1C(=CC2=C(C=C(O2)CCCCCCCC)C1C(C)(C)C)C(C)(C)C | C26H40O3
